US04452809
Trans-4-(2,3-dichlorophenoxy)-1-[(phenylmethoxy)carbonyl]-3-pyrrolidinol
A mixture of 8.5 g (0.023 mole) of trans-4-(2,3-dichlorophenoxy)-1-phenylmethyl-3-pyrrolidinol hydrochloride and 100 liters of methyl chloride was cooled and treated dropwise with a solution of 23 g (0.125 mole) of benzylchloroformate in 100 ml of methylene chloride. The mixture was stirred at ambient temperature for 48 hr and then washed successively with water, 2 N hydrochloric acid, 5% sodium hydroxide and water. The methylene chloride layer was dried over anhydrous sodium sulfate and then subjected to vacuum distillation at 100°/1.0 mm. to remove the methylene chloride, excess benzylchloroformate and benzyl chloride. An NMR analysis of the pot residue indicated only the oxygen was substituted. An additional 25 ml. of benzylchloroformate and 100 ml. of methylene chloride was added to the residue and the solution stirred at ambient temperature for 48 hr. The mixture was purified as above to give 14.6 g. of residue which was chromatographed on 300 g. of silica gel. The chromatography gave 5.6 g. of the disubstituted compound (See Example 20) and 1.0 g. of the titled compound as a white solid, m.p. 130°-2° C. (recrystallized from benzene).

reactant | trans-4-(2,3-dichlorophenoxy)-1-phenylmethyl-3-pyrrolidinol hydrochloride | 0.023 mole, 8.5 g | Cl.ClC1=C(O[C@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=CC=C1Cl
reactant | methyl chloride | 100 liters | CCl | CH3Cl
reactant | benzylchloroformate | 0.125 mole, 23 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Trans-4-(2,3-dichlorophenoxy)-1-[(phenylmethoxy)carbonyl]-3-pyrrolidinol | ClC1=C(O[C@H]2[C@@H](CN(C2)C(=O)OCC2=CC=CC=C2)O)C=CC=C1Cl | C18H17Cl2NO4
